US04810713
N-[4-(3-Chloropropoxy)phenyl]carbamic acid ethyl ester
A mixture of 6.6 g (0.036 mole) of (4-hydroxyphenyl)carbamic acid ethyl ester, 11.5 g (0.072 mole) of 1-bromo-3-chloropropane, 13.8 g (0.10 mole) of anhydrous potassium carbonate and 150 ml of acetone was heated at reflux for 21 hr. The mixture was cooled and filtered. The filtrate was concentrated under reduced pressure to give a solid residue. The solid was triturated with petroleum ether (30°-60° C.) collected by filtration and recrystallized from isopropanol to yield 7.7 g (83%) of white solid, m.p., 91°-93° C.

reactant | (4-hydroxyphenyl)carbamic acid ethyl ester | 0.036 mole, 6.6 g | C(C)OC(NC1=CC=C(C=C1)O)=O | C9H11NO3
reactant | 1-bromo-3-chloropropane | 0.072 mole, 11.5 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.10 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | N-[4-(3-Chloropropoxy)phenyl]carbamic acid ethyl ester | 7.7 g, 83% | C(C)OC(NC1=CC=C(C=C1)OCCCCl)=O | C12H16ClNO3
